US06838581B2
To a mixture of K3Fe(CN)6, K2CO3 and (DHQD)2PHAL in t-BuOH—H2O (1:1) cooled to 0° C. was added OsO4 (0.1 M solution in toluene). After stirring for 5 minutes at 0° C., styrene was added in one portion. The reaction mixture was stirred at 0° C. for 24 h and then quenched with solid sodium sulfite. The stirring was continued for 1 h and the solution was extracted with ethyl acetate. The combined organic phase was washed with brine, dried (Na2SO4) and concentrated. Silica gel column chromatography of crude product using petroleum ether:EtOAc (3.5:1.5) as eluent gave (S)-phenylethylene glycol as a white solid.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | (DHQD)2PHAL | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
solvent | t-BuOH—H2O | C(C)(C)(C)O.O
catalyst | OsO4 | 0.1 M | O=[Os](=O)(=O)=O
product | (S)-phenylethylene glycol | C1(=CC=CC=C1)[C@@H](CO)O | C8H10O2
